US04963590
3-(3,4-Dihydroxy-5-nitrophenyl)-1-(2-carboxyphenyl)prop-2-en-1-one
The procedure described in Example 8 was repeated using 1.83 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 1.64 g of 2'-carboxyacetophenone. Yield 0.36 g (11%), m.p. 178°-180° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.83 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 2'-carboxyacetophenone | 1.64 g | C(=O)(O)C1=C(C=CC=C1)C(C)=O | C9H8O3
product | 3-(3,4-Dihydroxy-5-nitrophenyl)-1-(2-carboxyphenyl)prop-2-en-1-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=CC(=O)C1=C(C=CC=C1)C(=O)O | C16H11NO7
